data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-F_2-Cl_3-c2ccccc2_4-CC_5-c2ccccc2_6-Br_7-C(C)(C)C","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(c2ccccc2)C(=O)CC)(F)Cl","C(c2ccccc2)(Br)C(=O)C(C)(C)C"],"products_smiles": ["C1(=C(CC)C(=O)C(C(F)(Cl)C1(c2ccccc2)Br)c2ccccc2)C(C)(C)C"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(c2ccccc2)Br)([O-])C(C)(C)C","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(F)(Cl)C(=C([O-])CCC)c2ccccc2)(c2ccccc2)Br)C(C)(C)C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(F)(Cl)C(c2ccccc2)C(=O)CCC)(c2ccccc2)Br)C(C)(C)C","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(F)(Cl)C(c2ccccc2)C([O-])=CCC)(c2ccccc2)Br)C(C)(C)C","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC)C(=O)C(C(F)(Cl)C1(c2ccccc2)Br)c2ccccc2)(C(C)(C)C)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(CC)=C([O-])C(C(F)(Cl)C1(c2ccccc2)Br)c2ccccc2)(C(C)(C)C)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(CC)C(=O)C(C(F)(Cl)C1(c2ccccc2)Br)c2ccccc2)C(C)(C)C","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-223_1-c1ccc(OC)cc1_2-c1ccccc1_3-C(C)C_4-c1ccccc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(OC)cc1)(c1ccccc1)(O)C(O)(C(C)C)(c1ccccc1)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C(c1ccccc1)(C(C)C)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)(O)C([OH2+])(C(C)C)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)(O)[C+](C(C)C)(c1ccccc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C(c1ccccc1)(C(C)C)(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
